US07781427B2
(±)-4,5,6,7,9,9a,10,11,12,12a-Decahydrocyclopenta[c][1,4]diazepino[6,7,1-ij]quinoline
BF3.OEt2 (2.2 ml, 17.5 mmol) was dropped to a mixture of benzodiazepine (0.74 g, 5 mmol), cyclopentene (3.6 ml, 40.0 mmol), paraformaldehyde (165 mg, 5.5 mmol) in acetonitrile (20 ml) at room temperature. The mixture was heated at 45° C. (oil bath) for 5 h. It was concentrated in vacuo. The residue was taken up with EtOAc (150 ml) and washed first with a mixture of aqueous Na2CO3 and NaOH (200 ml), and then with brine (200 ml). The organic layer was dried and added HCl (1 N in diethyl ether, 10 ml) and the resultant precipitates were collected by filtration. The mixture was purified by flash chromatography on silica gel (5-15% MeOH in CH2Cl2) to afford E (0.70 g, 53% yield.)

reactant | BF3.OEt2 | 17.5 mmol, 2.2 ml | B(F)(F)F.CCOCC
reactant | benzodiazepine | 5 mmol, 0.74 g | N1N=CC=CC2=C1C=CC=C2 | C9H8N2
reactant | cyclopentene | 40.0 mmol, 3.6 ml | C1=CCCC1 | C5H8
reactant | paraformaldehyde | 5.5 mmol, 165 mg | C=O | CH2O
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (±)-4,5,6,7,9,9a,10,11,12,12a-Decahydrocyclopenta[c][1,4]diazepino[6,7,1-ij]quinoline | 53% yield | C1=C2C3C(CN4C2=C(C=C1)CNCC4)CCC3 | C15H20N2
